US05780636
A stirred solution of (R)-6-(3-pyridyl)-3,4-dihydro-2H-thiopyran 1-oxide (22.43 g;88.2%ee) in ethanol (227 ml) is treated, portionwise, with sodium borohydride powder (3.52 g) under nitrogen at room temperature, and the mixture is stirred for 2.5 hours. It is then treated with a further quantity of sodium borohydride (0.43 g), and the mixture is stirred for a further period of 15 minutes. The mixture is treated with water (454 ml) and extracted with dichloromethane (2×340 ml). The combined extracts are washed with water 340 ml), dried over magnesium sulphate and the solvent is removed by evaporation under reduced pressure, to give an oily paste (18.1 g). This paste is treated with ethyl acetate (72 ml) and the mixture is heated at reflux, with stirring. The solution is allowed to cool to room temperature, and stirred for 3 hours. The resulting suspension is cooled to 0° C. for 1 hour, and then filtered. The pale yellow solid is washed with a little cold ethyl acetate and sucked dry using vacuum filtration, to give (1R,2R)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1 -oxide (8.03 g;99.7%ee), m.p. 124.5°-126.50° C. [Elemental analysis:- C,61.2;H,6.67; N,7.1 ;S,16.7%. Calculated:- C,61.51 ;H,6.71 ;N,7.17; S,16.42%. NMR (CDCl3):- 1.6(m,1H), 8(m,2H),2.0(m,1H),2.4(m,1H),2.7(m,2H),3.2(m,1H), 3.5(dd,1H),7.3(m,1H),7.7(dt,1H),8.6(m,2H)].

reactant | (R)-6-(3-pyridyl)-3,4-dihydro-2H-thiopyran 1-oxide | 22.43 g | N1=CC(=CC=C1)C1=CCCC[S@]1=O | C10H11NOS
reactant | sodium borohydride | 3.52 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.43 g | [BH4-].[Na+]
reactant | water | 454 ml | O | H2O
reactant | ethyl acetate | 72 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 227 ml | C(C)O | C2H6O
product | (1R,2R)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1 -oxide | 8.03 g | N1=CC(=CC=C1)[C@@H]1[S@@](CCCC1)=O | C10H13NOS
